Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.25732447586
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-4.43093050447
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14],4.91560406443
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.57125026466
[C:4]([H:5])[H:6].[H:1][O:2][C:3]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-7.13069810253
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[C:3]([H:4])[O:5][C:6][H:7].[O:1]=[C:2],3.30954671925
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.83974142932
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.1557702335
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],6.75728872
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([O:5])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.61270982797
[H:1][C:2]#[C:3][C:4][O:5][H:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10],-0.854092993769
[O:1]=[C:2]=[C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4](=[O:5])[H:6].[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10],4.08208445939
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.78664887648
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-2.7255059849400003
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.0901120727199975
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6](=[O:7])[H:8],-7.29655941891
[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-2.90172297942
[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-1.00940833925
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-0.2737701747
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],3.47433422847
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2][C:14]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([H:15])[H:16],5.774592299999999
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][H:5],1.75002474283
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.77250276621
[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.67477964669
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:10][H:11]>>[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[O:10][H:11],-1.75224916571
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][H:3],8.11680566
